US06350749B1
To a solution of 5-phenylcyclohexane-1,3-dione (0.94 g) in ethanol (15 ml) was added sodium ethoxide (0.37 g), and the mixture was stirred, under argon atmosphere, at room temperature for 15 minutes. To the mixture was added ethyl bromopyruvate (0.83 ml), and the mixture was stirred, under argon atmosphere, at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, and to the residue was added xylene (15 ml), and the mixture was stirred, under argon atmosphere, at 150° C. for 4 hours. The reaction solution was cooled, and to the mixture was added ice-water. The mixture was extracted with ethyl acetate. The upper layer was washed with saturated brine, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure, and the residue was subjected to silica gel chromatography and eluted with ethyl acetate/hexane to give 3-ethoxycarbonyl-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one (1.04 g).

reactant | 5-phenylcyclohexane-1,3-dione | 0.94 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | sodium ethoxide | 0.37 g | [O-]CC.[Na+]
reactant | ethyl bromopyruvate | 0.83 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-ethoxycarbonyl-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one | 1.04 g | C(C)OC(=O)C1=COC2=C1C(CC(C2)C2=CC=CC=C2)=O | C17H16O4
